US05872137
A mixture of 1.14 g of 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenol, 1.20 g of 3-(4-chlorophenoxy)propyl bromide, 0.83 g of potassium carbonate and 20 ml of N,N-dimethylformamide was stirred at 80° C. for 6 hours. The reaction mixture was poured into ice-water, and extracted twice with 50 ml of diethyl ether. The combined ether layer was washed with water, dried with anhydrous magnesium sulfate, and concentrated to obtain a crude product. The crude product was subjected to silica gel chromatography, which afforded 1.01 g of 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(3-(4-chlorophenoxy)propyloxy)benzene (55% yield), nD25.0 1.5822.

reactant | 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenol | 1.14 g | ClC1=C(C(=CC(=C1)OCC=C(Cl)Cl)Cl)O | C9H6Cl4O2
reactant | 3-(4-chlorophenoxy)propyl bromide | 1.20 g | ClC1=CC=C(OCCCBr)C=C1 | C9H10BrClO
reactant | potassium carbonate | 0.83 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(3-(4-chlorophenoxy)propyloxy)benzene | 1.01 g, 55% yield | ClC=1C=C(C=C(C1OCCCOC1=CC=C(C=C1)Cl)Cl)OCC=C(Cl)Cl | C18H15Cl5O3
